US07884124B2
To 6-tert-butoxycarbonyl-6H-thieno[2,3-b]pyrrole-5-carboxylic acid ethyl ester (0.09 g, 0.31 mmol) as a solution in dichloromethane (1 mL) was added TBAF (1M THF, 0.46 mL) followed by N-bromosuccinimide (NBS) (0.07 g, 0.4 mmol). The resulting mixture was allowed to stir at 23° C. for 16 h, after which time the entire reaction mixture was placed directly on a silica gel column. Flash column chromatography (20% ethyl acetate in hexanes) afforded 6-tert-butoxycarbonyl-2-bromo-6H-thieno[2,3-b]pyrrole-5-carboxylic acid ethyl ester (0.04 g, 36% yield).

reactant | 6-tert-butoxycarbonyl-6H-thieno[2,3-b]pyrrole-5-carboxylic acid ethyl ester | 0.31 mmol, 0.09 g | C(C)OC(=O)C1=CC2=C(N1C(=O)OC(C)(C)C)SC=C2 | C14H17NO4S
reactant | TBAF | 1M, 0.46 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | N-bromosuccinimide | 0.4 mmol, 0.07 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 6-tert-butoxycarbonyl-2-bromo-6H-thieno[2,3-b]pyrrole-5-carboxylic acid ethyl ester | 0.04 g, 36% yield | C(C)OC(=O)C1=CC2=C(N1C(=O)OC(C)(C)C)SC(=C2)Br | C14H16BrNO4S
